US05891889
Step B: Preparation of Methyl 4-(3-methylbenzoyl)piperidine-4-carboxylate hydrochloride salt
A solution of methyl N-tert-butoxycarbonyl-4-(3-methylbenzoyl)piperidine-4-carboxylate (77 mg) in ethyl acetate (10 mL) at 0° C. was saturated with hydrogen chloride gas. The resultant solution was stirred at 0° C. for 2.5 h. The product solution was concentrated under vacuum to provide the title compound.

reactant | methyl N-tert-butoxycarbonyl-4-(3-methylbenzoyl)piperidine-4-carboxylate | 77 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OC)C(C1=CC(=CC=C1)C)=O | C20H27NO5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 4-(3-methylbenzoyl)piperidine-4-carboxylate hydrochloride salt | Cl.CC=1C=C(C(=O)C2(CCNCC2)C(=O)OC)C=CC1 | InChI=1S/C15H19NO3.ClH/c1-11-4-3-5-12(10-11)13(17)15(14(18)19-2)6-8-16-9-7-15;/h3-5,10,16H,6-9H2,1-2H3;1H
